US04379167
1-(1-Naphthyloxy)-4-phenethylamino-2-butanol Hydrochloride
A mixture of 12.5 g. (0.05 mole) of 1-(1-naphthyloxy)-2-hydroxybutyl chloride and 14.5 g. (0.1 mole) of phenethylamine was heated at 120° C. for 20 min. on a hot plate. The resulting mixture was mixed with 250 ml. of acetone, heating to boiling and then filtered at room temperature. The filtrate was treated with 50 ml. of ethereal hydrogen chloride. The resulting white precipitate was filtered. The white crystalline solid was recrystallized from acetone and yielded 11.8 g. of the hydrochloride salt which melted at 163°-165° C.

reactant | 1-(1-naphthyloxy)-2-hydroxybutyl chloride | 0.05 mole | C1(=CC=CC2=CC=CC=C12)OC(C(CC)O)Cl | C14H15ClO2
reactant | phenethylamine | 0.1 mole | C(CC1=CC=CC=C1)N | C8H11N
solvent | acetone | CC(=O)C | C3H6O
product | 1-(1-Naphthyloxy)-4-phenethylamino-2-butanol Hydrochloride | Cl.C1(=CC=CC2=CC=CC=C12)OCC(CCNCCC1=CC=CC=C1)O | InChI=1S/C22H25NO2.ClH/c24-20(14-16-23-15-13-18-7-2-1-3-8-18)17-25-22-12-6-10-19-9-4-5-11-21(19)22;/h1-12,20,23-24H,13-17H2;1H
